US07713993B2
246 mg of a mixture of methyl 5-chloro-2-methoxy-2-(4-methoxyphenyl)valerate with methyl methoxy-(4-methoxyphenyl)acetate was obtained from methyl hydroxy-(4-methoxyphenyl)acetate (724 mg) and 1-chloro-3-iodopropane (0.56 ml) by the same method as in Examples 85 and 86. Then, the ester mixture was hydrolyzed and amidated with tert-butyl carbazate according to the method in Examples 85 and 86 to obtain 32 mg of tert-butyl N′-[5-chloro-2-methoxy-2-(4-methoxyphenyl)pentanoyl]hydrazinecarboxylate and 122 mg of tert-butyl N′-[2-methoxy-2-(4-methoxyphenyl)acetyl]hydrazinecarboxylate.

reactant | methyl 5-chloro-2-methoxy-2-(4-methoxyphenyl)valerate | ClCCCC(C(=O)OC)(C1=CC=C(C=C1)OC)OC | C14H19ClO4
reactant | methyl methoxy-(4-methoxyphenyl)acetate | COC(C(=O)OC)C1=CC=C(C=C1)OC | C11H14O4
reactant | 1-chloro-3-iodopropane | 0.56 ml | ClCCCI | C3H6ClI
product | methyl hydroxy-(4-methoxyphenyl)acetate | 724 mg | OC(C(=O)OC)C1=CC=C(C=C1)OC | C10H12O4
